US08809267B2
The hydrochloride salt of 4-(2-chloroethyl)morpholine (1.4 g, 7.2 mmol), sodium iodide 0.2 g, 1.3 mmol), and cesium carbonate (5.4 g, 16.4 mmol) were combined in DMF (25 mL) and stirred at rt for 5 min. 8-Chloro-2-(2-isopropylamino-oxazol-4-yl)-quinoline-4,7-diol (2.1 g, 6.6 mmol) was diluted in DMF (25 mL) and added to the reaction solution. After 5 min at rt, the reaction was warmed to 65° C. for 5 h. A small amount of conc. HCl (5-6 pipette drops) was added and the reaction concentrated in vacuo. The residue was taken up in water and MeOH and filtered through a C18 column to remove salts, first eluting with water then with MeOH to elute the desired compound. Following concentration of combined organics in vacuo, the resulting residue was purified by reverse phase HPLC to produce 1.79 g (51% yield) of 8-chloro-2-(2-isopropylamino-oxazol-4-yl)-7-(2-piperidin-1-yl-ethoxy)-quinolin-4-ol. LCMS found 433.3 [M+H]+.

reactant | 4-(2-chloroethyl)morpholine | 7.2 mmol, 1.4 g | ClCCN1CCOCC1 | C6H12ClNO
reactant | sodium iodide | 1.3 mmol, 0.2 g | [I-].[Na+]
reactant | cesium carbonate | 16.4 mmol, 5.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 8-Chloro-2-(2-isopropylamino-oxazol-4-yl)-quinoline-4,7-diol | 6.6 mmol, 2.1 g | ClC=1C(=CC=C2C(=CC(=NC12)C=1N=C(OC1)NC(C)C)O)O | C15H14ClN3O3
reactant | HCl | Cl | ClH
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 8-chloro-2-(2-isopropylamino-oxazol-4-yl)-7-(2-piperidin-1-yl-ethoxy)-quinolin-4-ol | 1.79 g, 51% yield | ClC=1C(=CC=C2C(=CC(=NC12)C=1N=C(OC1)NC(C)C)O)OCCN1CCCCC1 | C22H27ClN4O3
